US04650804
A mixture of 2-chloromethylpyridine (50 g), N-methylaniline (42 g), and potassium carbonate (120 g) in N,N-dimethylformamide (200 ml) was stirred for 4 hours at 120° C. The reaction mixture was cooled to room temperature, added to water (1 l), and extracted with ether. The ether extract was washed with water and then treated with activated carbon. After drying over magnesium sulfate, the ether extract was filtered and concentrated. The residue was crystallized from isopropyl alcohol to give N-methyl-N-(2-pyridylmethyl)aniline (39 g).

reactant | 2-chloromethylpyridine | 50 g | ClCC1=NC=CC=C1 | C6H6ClN
reactant | N-methylaniline | 42 g | CNC1=CC=CC=C1 | C7H9N
reactant | potassium carbonate | 120 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 l | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(2-pyridylmethyl)aniline | 39 g | CN(C1=CC=CC=C1)CC1=NC=CC=C1 | C13H14N2
